US07348362B2
Preparation of Formoterol Inhalation Solution Formulation:
In a clean stainless steel (SS) tank fitted with bottom drain, 75% of the required amount of purified water is added. Samples are taken for pH, conductivity, and microbiological testing. Citric acid monohydrate, sodium citrate dihydrate and sodium chloride are added to the tank and mixed for 15 minutes to dissolve. A sample is taken at this point to check pH. Formoterol fumarate dihydrate is added at this point and mixed for about 75 minutes to dissolve all active raw material. Purified water is used to adjust to final volume. The formulation is mixed for an additional 30 minutes and samples for pH and assay are taken based on which the formulation is released for filling. The bulk solution is filled into low density polyethylene (LDPE) vials (2 mL fill) in a form-fill-seal (FFS) machine. The released drug product solution is transferred from the formulation tank through sanitary delivery lines into the FFS machine. The individual vials are overwrapped with a suitable foil laminate.

reactant | Citric acid monohydrate | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | sodium citrate dihydrate | O.O.C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | Formoterol fumarate dihydrate | CC(CC=1C=CC(=CC1)OC)NCC(C=2C=CC(=C(C2)NC=O)O)O.C(=C/C(=O)O)\C(=O)O.O.O
solvent | water | O | H2O
product | Formoterol | CC(CC=1C=CC(=CC1)OC)NCC(C=2C=CC(=C(C2)NC=O)O)O | C19H24N2O4
